US05739333
5-(2-Methoxyphenoxy)-4,6-dichloro-2-(2-pyrimidinyl)pyrimidine and ethylene glycol are treated in the same manner as in Reference Example 1-(1) to give 2-{6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)pyrimidin-4-yloxy}-ethanol (5.37 g) as a powder.

reactant | 5-(2-Methoxyphenoxy)-4,6-dichloro-2-(2-pyrimidinyl)pyrimidine | COC1=C(OC=2C(=NC(=NC2Cl)C2=NC=CC=N2)Cl)C=CC=C1 | C15H10Cl2N4O2
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 2-{6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)pyrimidin-4-yloxy}-ethanol | 5.37 g | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)OCCO)OC1=C(C=CC=C1)OC | C17H15ClN4O4
